US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid tert-butylamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid (Example 42 a) and tert-butylamine (CAN 75-64-9) as starting materials. MS (EI): m/e=289.4 [M+H]+.

reactant | 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C17H24N2O2
